US04371534
To a solution of 1.1 g. (5 mmoles) of 2-acetyl-3-phenyl-tetrahydro-1,2,4-oxadiazin-5-one in 10 ml. of tetrahydrofurane 1 ml. of triethyl amine and 0.4 ml. of a 37% aqueous formaldehyde solution are added. The mixture is allowed to stand at room temperature overnight and is then evaporated to dryness. The residue is triturated with diethyl ether and the product is isolated by filtration. 1.16 g. (93%) of 2-acetyl-3-phenyl-4-hydroxymethyl-tetrahydro-1,2,4-oxadiazin-5-one are obtained, melting at 123° to 126° C. RfA =0.5.

reactant | 2-acetyl-3-phenyl-tetrahydro-1,2,4-oxadiazin-5-one | 5 mmoles | C(C)(=O)N1OCC(NC1C1=CC=CC=C1)=O | C11H12N2O3
reactant | tetrahydrofurane | 1 ml | O1CCCC1 | C4H8O
reactant | formaldehyde | C=O | CH2O
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
product | 2-acetyl-3-phenyl-4-hydroxymethyl-tetrahydro-1,2,4-oxadiazin-5-one | 93% | C(C)(=O)N1OCC(N(C1C1=CC=CC=C1)CO)=O | C12H14N2O4
